US07476741B2
3-Cyano-7-methoxy-2-oxo-4-(3,4,5-trimethoxyphenyl)-chroman
2-Amino-3-cyano-7-methoxy-4-(3,4,5-trimethoxyphenyl)-4H-chromene (260 mg, 0.7 mmol) was dissolved into approximately 5 mL of formic acid. The obtained white suspension was stirred approximately 1 h at room temperature until it solubilized. The solvent was evaporated. The residue was dissolved into ethyl acetate (20 mL), washed with sodium bicarbonate saturated solution (2×20 mL), brine (20 mL), dried over sodium sulfate and concentrated to give approximately 210 mg of a mixture of diastereoisomers. 1H NMR (CDCl3): 7.12 (d, J=8.2 Hz, 0.5H), 6.82-6.67 (m, 2.5H), 6.41 (s, 1H), 6.37 (s, 1H), 4.48-4.43 (m, 1H), 4.25-4.02 (m, 1H), 3.86-3.78 (4s, 12H)

reactant | 2-Amino-3-cyano-7-methoxy-4-(3,4,5-trimethoxyphenyl)-4H-chromene | 0.7 mmol, 260 mg | NC=1OC2=CC(=CC=C2C(C1C#N)C1=CC(=C(C(=C1)OC)OC)OC)OC | C20H20N2O5
reactant | formic acid | approximately 5 mL | C(=O)O | CH2O2
product | 3-Cyano-7-methoxy-2-oxo-4-(3,4,5-trimethoxyphenyl)-chroman | approximately 210 mg | C(#N)C1C(OC2=CC(=CC=C2C1C1=CC(=C(C(=C1)OC)OC)OC)OC)=O | C20H19NO6
